US07273936B2
A solution of acetic acid 2-benzo[1,3]dioxol-5-yl-1-(6-methyl-pyridin-2-yl)-2-oxo-ethyl ester (80 mg, 0.26 mmol), ammonium acetate (200 mg, 2.6 mmol, 10 equiv) in acetic acid (4 mL) was heated to 105° C. for 3 hours. The resulting reaction mixture was concentrated in vacuo, and reverse phase high pressure liquid chromatography (a gradient from 5-30% acetonitrile in 0.1% aqueous formic acid) provided 2-(4-Benzo[1,3]dioxol-5-yl-2-methyl-oxazol-5-yl)-6-methyl-pyridine (15.9 mg, 21%).[LCMS: Rt=2.10 min; M+H=295.2]

reactant | acetic acid 2-benzo[1,3]dioxol-5-yl-1-(6-methyl-pyridin-2-yl)-2-oxo-ethyl ester | 0.26 mmol, 80 mg | O1COC2=C1C=CC(=C2)C(C(C2=NC(=CC=C2)C)OC(C)=O)=O | C17H15NO5
reactant | ammonium acetate | 2.6 mmol, 200 mg, 10 equiv | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
product | 2-(4-Benzo[1,3]dioxol-5-yl-2-methyl-oxazol-5-yl)-6-methyl-pyridine | 15.9 mg, 21% | O1COC2=C1C=CC(=C2)C=2N=C(OC2C2=NC(=CC=C2)C)C | C17H14N2O3
